US08168634B2
6-Bromo-4H-benzo[1,4]oxazin-3-one
NEt3 (2.4 mL, 17 mmol) was added to 2-amino-4-bromophenol (2.5 g, 13 mmol) in THF (80 mL). The reaction mixture was cooled to 0° C., chloroacetyl chloride (1.12 mL, 14 mmol) was added portionwise and then stirred at 0° C. for 10 minutes before being allowed to warm to r.t. and stirred for a further 2 h. The reaction mixture was cooled to 0° C. and NaH (1.05 g, 60% dispersion in oil, 26 mmol) was added portionwise. The reaction mixture was stirred at 0° C. for 20 minutes then at r.t. for 2 h before being quenched with water (20 mL). The solvent was removed in vacuo and the resulting mixture diluted with water (100 mL). The precipitate was filtered, washed with water (3×50 mL) and dried in vacuo to give the title compound (2.14 g, 70%) as a beige solid. δH (DMSO-d6) 10.81 (1H, br. s), 7.08 (1H, dd, J 8.5 Hz and J 2.3 Hz), 7.02 (1H, d, J 2.3 Hz), 6.92 (1H, d, J 8.5 Hz), 4.60 (2H, s).

reactant | NEt3 | 17 mmol, 2.4 mL | CCN(CC)CC | C6H15N
reactant | 2-amino-4-bromophenol | 13 mmol, 2.5 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | chloroacetyl chloride | 14 mmol, 1.12 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | NaH | 26 mmol, 1.05 g | [H-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 6-Bromo-4H-benzo[1,4]oxazin-3-one | 2.14 g, 70% | BrC=1C=CC2=C(NC(CO2)=O)C1 | C8H6BrNO2
